US08383644B2
(R)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxine-6-carbonitrile
3-{(R)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-hydroxy-ethoxy}-4-fluoro-benzonitrile (10.2 g) was dissolved in 108 mL NMP-diglyme (1:9) under nitrogen and heated to 150° C. internal temperature. A suspension of sodium hydride (1130 mg of 60% NaH in mineral oil) in 10 mL NMP-diglyme (1:9) was added all at once via syringe while stirring. After 2 minutes, the reaction was removed from heating and cooled, then poured onto saturated ammonium chloride and EtOAc. The layers were separated and the organic layer washed 3 times with 1 N HCl and dried over Na2SO4. The residue was purified by silica gel flash chromatography (DCM-hexanes 1:1 to DCM). The residue was crystallized from refluxing MeOH/DCM (about 3:1), to give 5.2 g of desired product. 1H NMR (400 MHz, CDCl3): 7.53 (d, 1H), 7.45 (d, 1H), 7.34 (m, 2H), 7.27-7.24 (m, 1H), 7.22 (d, 1H) 7.18 (m, 1H), 7.0 (m, 3H), 5.12 (m, 1H), 5.04 (s, 2H), 4.37 (m, 1H), 4.03 (m, 1H).

reactant | 3-{(R)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-hydroxy-ethoxy}-4-fluoro-benzonitrile | 10.2 g | ClC=1C=C(COC2=CC=C(C=C2)[C@H](COC=2C=C(C#N)C=CC2F)O)C=CC1Cl | C22H16Cl2FNO3
reactant | sodium hydride | 1130 mg | [H-].[Na+]
solvent | NMP diglyme | 108 mL | CN1CCCC1=O.COCCOCCOC
solvent | NMP diglyme | 10 mL | CN1CCCC1=O.COCCOCCOC
product | (R)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxine-6-carbonitrile | 5.2 g | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2COC3=C(O2)C=CC(=C3)C#N)C=CC1Cl | C22H15Cl2NO3
